US04946497
1-Butyl-1,4-dihydro-4-oxo-N-phenyl-2,6-dipropyl-3-pyridinecarboxamide (Example No. 3)
To a mixture of 1 g (3.34 mmol) of 4-oxo-N-phenyl-2,6-dipropyl-4H-pyran-3-carboxamide, 0.37 g (5.01 mmol) of butylamine and 5 ml of toluene, 1 ml of 1N sodium hydroxide solution in methanol was added and stirred overnight at room temperature. After adding about 10 ml of water and about 10 ml of ethylacetate to the mixture, they were well shaken in a separatory funnel. The organic layer was washed with saturated sodium chloride solution, dried in an usual manner, concentrated and crystallized from toluene and cyclohexane to afford 737 mg of the title compound having m.p. 133.5°-136.5° C.

reactant | 4-oxo-N-phenyl-2,6-dipropyl-4H-pyran-3-carboxamide | 3.34 mmol, 1 g | O=C1C(=C(OC(=C1)CCC)CCC)C(=O)NC1=CC=CC=C1 | C18H21NO3
reactant | butylamine | 5.01 mmol, 0.37 g | C(CCC)N | C4H11N
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | ethylacetate | about 10 ml | C(C)OC(C)=O | C4H8O2
solvent | water | about 10 ml | O | H2O
product | 1-Butyl-1,4-dihydro-4-oxo-N-phenyl-2,6-dipropyl-3-pyridinecarboxamide | 737 mg | C(CCC)N1C(=C(C(C=C1CCC)=O)C(=O)NC1=CC=CC=C1)CCC | C22H30N2O2
